US09034866B2
Synthesis of (R)-4,4-difluoro-9-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[b]pyrazol o[1,5-d][1,4]oxazepine-2-carboxamide
To a pressure tube was added 4,4-difluoro-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide (65 mg, 0.17 mmol) followed by piperidine (1.5 ml), tetrakis(triphenylphosphine)palladium (0) (19.2 mg, 0.02 mmol), copper(I) iodide (3.2 mg, 0.02 mmol) and (2R)-2-(5-methyl-1,2-oxazol-3-yl)but-3-yn-2-ol (38 mg, 0.25 mmol). The reaction vessel was sealed and heated at 60° C. for 40 minutes. The reaction mixture was cooled and concentrated in vacuo. and then co-evaporated with dichloromethane (2×10 ml). The crude material was purified by FCC (silica, 1-8% methanol in dichloromethane) to provide 34 mg (49%) of the title compound as a pale brown solid. 1H-NMR (500 MHz, DMSO-d6): 1.81 (3H, s), 2.41 (3H, d, J=0.7 Hz), 4.85 (2H, t, J=11.7 Hz), 6.36 (1H, d, J=0.8 Hz), 6.56 (1H, s), 7.33 (1H, d, J=8.4 Hz), 7.35 (1H, s), 7.43 (1H, dd, J=8.4, 2.0 Hz), 7.60 (1H, s), 8.16 (1H, s), 8.37 (1H, d, J=2.0 Hz); M+23=437.

reactant | 4,4-difluoro-9-iodo-4,5-dihydrobenzo[b]pyrazolo[1,5-d][1,4]oxazepine-2-carboxamide | 0.17 mmol, 65 mg | FC1(C=2N(C3=C(OC1)C=CC(=C3)I)N=C(C2)C(=O)N)F | C12H8F2IN3O2
reactant | piperidine | 1.5 ml | N1CCCCC1 | C5H11N
reactant | (2R)-2-(5-methyl-1,2-oxazol-3-yl)but-3-yn-2-ol | 0.25 mmol, 38 mg | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
catalyst | tetrakis(triphenylphosphine)palladium | 0.02 mmol, 19.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(I) iodide | 0.02 mmol, 3.2 mg | [Cu]I
product | (R)-4,4-difluoro-9-(3-hydroxy-3-(5-methylisoxazol-3-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[b]pyrazol o[1,5-d][1,4]oxazepine-2-carboxamide | 34 mg, 49% | FC1(C=2N(C3=C(OC1)C=CC(=C3)C#C[C@](C)(C3=NOC(=C3)C)O)N=C(C2)C(=O)N)F | C20H16F2N4O4
